US08236826B2
Production of 2-dimethylamino-N-[4-(5-nitropyridin-2-yloxy)phenyl]-N-[2-(4-piperonylpiperazin-1-yl)-2-oxoethyl]acetamide
To a solution of 2-chloro-N-[4-(5-nitropyridin-2-yloxy)phenyl]-N-[2-(4-piperonylpiperazin-1-yl)-2-oxoethyl]acetamide (0.300 g, 0.528 mmol) in acetonitrile (3 mL) was added at room temperature dimethylamine (0.150 mL, 1.63 mmol), and the resulting solution was stirred for 2 hours at 50° C. Water was added to the reaction mixture, and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate, evaporated, and the residue was purified by silica gel column chromatography (dichloromethane:methanol=10:1), to thereby yield 0.270 g of the title compound.

reactant | 2-chloro-N-[4-(5-nitropyridin-2-yloxy)phenyl]-N-[2-(4-piperonylpiperazin-1-yl)-2-oxoethyl]acetamide | 0.528 mmol, 0.300 g | ClCC(=O)N(CC(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1)C1=CC=C(C=C1)OC1=NC=C(C=C1)[N+](=O)[O-] | C27H26ClN5O7
reactant | dimethylamine | 1.63 mmol, 0.150 mL | CNC | C2H7N
reactant | Water | O | H2O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 2-dimethylamino-N-[4-(5-nitropyridin-2-yloxy)phenyl]-N-[2-(4-piperonylpiperazin-1-yl)-2-oxoethyl]acetamide | CN(CC(=O)N(CC(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1)C1=CC=C(C=C1)OC1=NC=C(C=C1)[N+](=O)[O-])C | C29H32N6O7
